Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unusual thoughts, behaviors, concerns for psychosis vs bipolar 
 
Major Surgical or Invasive Procedure:
N/A 
 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including initial consultation note by Dr. 
___ dated ___ and Dr. ___ on ___. 
 
. 
Briefly, this is a ___ year old male medical student with history 
of "social anxiety" and marijuana use, unremarkable past medical 
history, no prior psychiatric hospitalizations or suicide 
attempts, who presented to ___ due to concerns for psychosis 
in the setting of likely cannabis use and academic stressors. 
. 
Per review of OMR, patient was reportedly in his usual state of 
health until approximately a week prior to presentation. 

Per review of records and collateral, Mr. ___ appears to be 
in his usual state of health until the past week. He spent 
significant amounts of time "staring at a wall and listening to
music."  For full details, please see full psychiatric 
consultation note by Dr. ___.  When asked what brings him to 
the hospital, Mr. ___ says, "I want to wait until marriage 
to have sex" and then initiates a tangent involving his becoming 
distrustful of one of his friends. He denies having a partner, 
being in a relationship, or being sexually active recently.  
.
He reports that he has been smoking marijuana nearly daily 
recently, but has difficulty describing the time course over 
which this has happened. He has been smoking with a friend, and 
believes he could "exert influence on his thoughts" and then 
says "he tried to manipulate me," but has difficulty describing 
this. He does demonstrate insight that he should stay away from 
marijuana as it is likely worsening his thoughts.  
. 
Mr. ___ reports that he has a history of social anxiety. He 
is self-conscious of his stutter and often prefers to be alone. 
He was taking Wellbutrin 150mg XL and Lexapro 10mg daily, but 
recently stopped one week ago due to wanting to be off of 
psychoactive substances.  He has been attending group therapy, 
but also stopped going recently because the group was becoming 
"more true to each other" and "getting too vulnerable."  
.
Mr. ___ has also had a recent stressor, as he has been 
studying for his upcoming Step 1 board examination (for medical 
school). When he started studying one month ago, he reports 
staying up throughout an entire night.  He reports several odd 
beliefs related to his studying, such as wearing two watches "so 
other people wouldn't know my study techniques" and "wearing a 
tin foil blanket because I'm nocturnal."  He also has been 
preoccupied with Daoism recently. 
. 
Currently, Mr. ___ reports his mood is "fine." Reports 
chronic anxiety. Denies depressed mood. Denies auditory and 
visual hallucinations. Denies suicidal ideation and homicidal 
ideation. He does report paranoid thoughts ("my friend is trying 
to manipulate me").  Denies any somatic concerns. 

Course in Emergency Department: No acute events. Received 
lorazepam 1mg x1 for anxiety. Was cooperative with care. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: social anxiety 
- Hospitalizations: none 
- SA/SIB: denies/denies 
- Medication Trials: Lexapro, Wellbutrin 
- Psychiatrist: Dr. ___ 

___ Medical History: None 

 
Social History:
___
Family History:
Maternal cousin with autism 
___ cousin with possible bipolar    
 
Physical Exam:
***ADMISSION PHYSICAL EXAM***
*VS: T 97.4F, HR 77, BP 126/84, RR 18, O2 100% RA   

Neurological:  
 *station and gait: wnl and ambulating without difficulty
 abnormal movements: STutters and clenches jaw episodically. No
tremor noted
 frontal release: not assessed

Cognition: 
 Wakefulness/alertness: alert and attentive
 *Attention (digit span, MOYB): Able to name the months of the
year forwards and backwards.
 *Orientation: Oriented to person, place, time and situation
 *Memory: ___ registration, ___ recall, long-term: grossly 
intact

 *Fund of knowledge: consistent with education  
 Calculations: 7 quarters in $1.75 
 Abstraction: gave interpretation of "grass is always greener" 
as
"life after death."
 Visuospatial: no assessed
 *Speech: increased rate and pressured.  difficult to interupt
 *Language: Fluent ___ speaker, no paraphasic errors,
repetition and naming intact.
 
Mental Status:
 *Appearance:  young male, appears stated age, wearing hospital
gown and lying in bed
 Behavior: cooperative with interview and makes appropriate eye
contact. self conscious around stutter. No PMR/PMA.
 *Mood and Affect: "sad" labile.  goes from very excited and
happy to crying
 *Thought process / *associations:  Tangential and flight of
ideas.  
 *Thought Content: .  VH per hpi.  Suicidal thoughts without
intent or plan per hpi.  Denies HI/AH
 *Judgment and Insight:  impaired/impaired

***DISCHARGE PHYSICAL EXAM***
98.1 PO   100/57   81   16   97%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate 
TC: denies SI/HI, AVH 
TP: linear, goal and future oriented 
C: awake, alert and oriented x3 
I/J: fair/fair 
 
Pertinent Results:
*Admission Labs 

BMP:
___: Na: 142
___: K: 4.0
___: Cl: 102
___: CO2: 24
___: BUN: 12
___: Creat: 1.0
___: Glucose: 86 (If fasting, 70-100 normal, >125
provisional diabetes)
TSH:
CBC: 
___: WBC: 8.7
___: RBC: 5.40
___: HGB: 14.9
___: HCT: 44.0
___: MCV: 82
___: MCH: 27.6
___: MCHC: 33.9
___: RDW: 12.6
___: Plt Count: 308
___: MONOS: 9.0
___: Eos: 0.9*
___: BASOS: 0.9

Utox:
___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen
does not detect some drugs,; including Lorazepam, Clonazepam, 
and
Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect
synthetic opioids; such as Methadone, Oxycodone, Fentanyl,
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false
positive result)
UA:
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): 10
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

 
Brief Hospital Course:
This is a ___ year old male medical student with history  of 
"social anxiety" and marijuana use, unremarkable past medical  
history, no prior psychiatric hospitalizations or suicide  
attempts, who presented to ___ due to concerns for psychosis  
in the setting of likely cannabis use and academic stressors. 
.
History significant for patient being in his usual state of 
health until approximately 1 week prior to admission with 
apparent acute onset of psychotic symptoms in the setting of 
studying for his medical boards with poor sleep and cannabis 
use-- psychosis characterized by disruptions in sleep, paranoia 
that his roommate was out to get him, bizarre behaviors 
surrounding his studying habits (wearing two watches, wrapping 
himself in tin foil blanket), and preoccupation with Daoism, 
that is not his baseline. As noted below, patient's psychosis 
cleared rapidly in the setting of sobriety and low dose 
risperidone-- given the acute onset of his symptoms and rapid 
resolution, believe etiology is likely secondary to cannabis 
induced psychotic disorder. 

#.  Legal/Safety: On admission, patient signed a CV, which was 
accepted. He maintained his safety throughout his psychiatric 
hospitalization and did not require physical or chemical 
restraints. 

#. Cannabis induced psychotic disorder: as noted above 
- Patient was encouraged to attend groups, and was noted to 
participate appropriately in the milieu. He maintained excellent 
behavioral control throughout his admission. 
- Given initial concern for mania in the emergency department, 
Wellbutrin and Lexapro were held during this admission with 
recommendation they not be restarted until evaluated by his 
outpatient psychiatrist. 
- After discussion of the risks and benefits, risperidone was 
started at 1 mg po bid and titrated to 1 mg po qd/2mg po qhs 
with significant improvement in psychosis and with no reported 
side effects. Recommendation is to continue titrate off as an 
outpatient as tolerated and as clinically indicated. 
- For periods of insomnia/anxiety/agitation, we discussed the 
risks and benefits of Ativan, which was started and titrated to 
1 mg po bid prn anxiety/insomnia with the recommendation this be 
titrated off as tolerated to avoid dependence/tolerance. 
- The treatment team met with the patient's mother, who was 
staying with the patient and planned on staying with him 
following discharge until his condition had stabilized. She 
stated she felt the patient had returned to his baseline, and 
felt comfortable with discharge with plan to follow up with his 
outpatient psychiatrist
- Of note, Mr. ___ denied suicidal ideation and thoughts of 
self harm throughout his psychiatric hospitalization. At time of 
discharge, he was notably engaged with interviewer, with denial 
of SI/HI, AVH, paranoia, and with thought process that was 
notably linear, goal and future oriented. 
- With the patient's permission, I contacted his outpatient 
psychiatrist, who felt comfortable with the above treatment 
plan. 

#. Cannabis Use Disorder:  
- Patient reported recreational cannabis use and was counseled 
extensively to avoid cannabis use in the future. He stated he 
would do so and follow up with his psychiatrist regarding 
cannabis use. 

#. Medical: no acute medical issues during this hospitalization 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  LORazepam 1 mg PO Q4H:PRN anxiety, agitation, insomnia 
RX *lorazepam [Ativan] 1 mg 1 tab by mouth twice a day Disp #*10 
Tablet Refills:*0 
2.  RisperiDONE 2 mg PO QHS 
RX *risperidone [Risperdal] 2 mg ___ tablet(s) by mouth as 
directed Disp #*10 Tablet Refills:*0 
3.  RisperiDONE 1 mg PO QAM  
4. HELD- BuPROPion XL (Once Daily) 150 mg PO DAILY  This 
medication was held. Do not restart BuPROPion XL (Once Daily) 
until you speak with your prescriber 
5. HELD- Escitalopram Oxalate 10 mg PO DAILY  This medication 
was held. Do not restart Escitalopram Oxalate until you speak 
with your prescriber 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder 
Cannabis use disorder 
 
Discharge Condition:
98.1 PO   100/57   81   16   97%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate 
TC: denies SI/HI, AVH 
TP: linear, goal and future oriented 
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
You were hospitalized at ___ for disorganized thoughts and 
behaviors. You improved significantly after starting a 
medication called Risperidone, and with individual and group 
therapy. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___